US04921962
Di-(1-heptyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
A mixture of 35.0 g (72.8 mmol) of di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate, 58.3 (582 mmol) of 90% aqueous t-butyl hydroperoxide, 2.0 g of molybdenum trioxide, and 250 ml of heptane is heated at 140° C. in a Fischer-Porter bottle. The pressure is maintained at 40-50 psi by occasional venting. Heating is discontinued after 7 hours. An additional portion (20.0 g) of 90% t-butyl hydroperoxide is added and the reaction mixture is heated for one hour at 140° C. The reaction is nearly colorless by this time. The reaction mixture is cooled and filtered to remove the catalyst. The organic phase is separated, dried over magnesium sulfate, and concentrated to 100 ml total volume. This solution is passed through silica gel with heptane as the eluent. The filtrate is evaporated to yield 36.9 g (72% yield) of the title compound, a nearly colorless oil.

reactant | di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 72.8 mmol, 35.0 g | C(CCCCCCCCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C28H52N2O4
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | t-butyl hydroperoxide | 20.0 g | C(C)(C)(C)OO | C4H10O2
catalyst | molybdenum trioxide | 2.0 g | [Mo](=O)(=O)=O
solvent | heptane | 250 ml | CCCCCCC | C7H16
product | Di-(1-heptyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | 36.9 g, 72% yield | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCC)(C)C | C42H80N2O6
